US06703391B2
N-(7-chloro-2,3-dihydro-2-methyl-1H-isoindol-4-yl)acetamide
A mixture of N-(2,3-dihydro-2-methyl-1H-isoindol-4-yl)acetamide (20 g), hydrochloric acid (37%, 2.5 mL), and sodium chlorite (15%, 10 ml) in 96% ethanol (20 mL) was stirred at room temperature for 4 hours. The solvent was removed by evaporation, whereafter the residue was treated with saturated Na2CO3 in water to pH=7. The precipitated product was filtered off and washed with water and ether. Yield 1.1 g, mp 147-150° C.

reactant | N-(2,3-dihydro-2-methyl-1H-isoindol-4-yl)acetamide | 20 g | CN1CC2=CC=CC(=C2C1)NC(C)=O | C11H14N2O
reactant | hydrochloric acid | 2.5 mL | Cl | ClH
reactant | sodium chlorite | 10 ml | Cl(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(7-chloro-2,3-dihydro-2-methyl-1H-isoindol-4-yl)acetamide | ClC=1C=CC(=C2CN(CC12)C)NC(C)=O | C11H13ClN2O
